US08686024B2
(3) Synthesis of 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindoline
To a solution of 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindole (78.5 mg, 0.310 mmol) in 0.75 mL of trifluoroacetic acid was added sodium cyanoborohydride (79 mg, 1.3 mmol) at room temperature. After the reaction mixture was stirred at the same temperature for 12 h, the reaction mixture was diluted with diethyl ether, and neutralized by 40% sodium hydroxide aqueous solution. The separated organic layer was washed with saturated NaHCO3 aqueous solution and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography to obtain the title compound (63 mg, 83%).

reactant | 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindole | 0.310 mmol, 78.5 mg | C(CC)N(C(=O)CC1=CN(C2=CC=C(C=C12)OC)C)CCC | C18H26N2O2
reactant | sodium cyanoborohydride | 1.3 mmol, 79 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 0.75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(di-n-propylaminocarbonylmethyl)-5-methoxy-1-methylindoline | 63 mg, 83% | C(CC)N(C(=O)CC1CN(C2=CC=C(C=C12)OC)C)CCC | C18H28N2O2
